US05061706
0.20 g (0.5 mmol) N-ethoxalyl-3,5-bistrifluoromethyl-2-nitroaniline in 10 ml tetrahydrofuran:dimethylformamide:25% aqueous ammonia (30:10:0.7) was hydrogenated at atm. pressure by using 5% Pd-C (0.02 g) as a catalyst. The reaction mixture was filtered and evaporated in vacuo. The residue was stirred with water, and the precipitate was filtered off to give 0.11 g (84%) of 6,8-bistrifluoromethyl-1-hydroxyquinoxaline- 2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d6): 8.1 (s). MS (m/e): 314 (M+, 40%), 173 (45%), 69 (100%).

reactant | N-ethoxalyl-3,5-bistrifluoromethyl-2-nitroaniline | 0.5 mmol, 0.20 g | C(=O)(C(=O)OCC)NC1=C(C(=CC(=C1)C(F)(F)F)C(F)(F)F)[N+](=O)[O-] | C12H8F6N2O5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | Pd-C | 0.02 g | [Pd] | Pd
product | 6,8-bistrifluoromethyl-1-hydroxyquinoxaline- 2,3(1H,4H)-dione | 0.11 g, 84% | FC(C=1C=C2NC(C(N(C2=C(C1)C(F)(F)F)O)=O)=O)(F)F | C10H4F6N2O3
